US03935214
4-Diethylaminoethyl-3-phenyl-1-(3,4-dibenzyloxy benzyl) piperazine hydrochloride. ##SPC31##
30 g. of 3,4-dibenzyloxy benzylchloride, 23 g. of 1-diethylamino ethyl-2-phenyl piperazine, 20 ml. of triethylamine, and 200 ml. of methylethylketone are boiled under reflux for 12 hours. The precipitated triethylamine hydrochloride is filtered off by suction. The solvent is distilled off and the residue is dissolved in benzene. The benzene solution is extracted with dilute hydrochloric acid (1 : 8). The hydrochloric acid extract is rendered alkaline by the addition of ammonia and is extracted with benzene. The benzene is removed from the benzene extract by distillation. Water-free alcoholic hydrochloric acid is added to the residue, and the hydrochloride of the resulting base is precipitated by the addition of a mixture of petroleum ether and acetone (1 : 1). The hydrochloride is redissolved in alcohol and is again precipitated by the addition of petroleum ether and acetone. Melting point of the hydrochloride: It starts to sublimate at 203° C. and melts at 235°-239° C. with decomposition. White crystals.

reactant | 3,4-dibenzyloxy benzylchloride | C(C1=CC=CC=C1)OC=1C=C(CCl)C=CC1OCC1=CC=CC=C1 | C21H19ClO2
reactant | 1-diethylamino ethyl-2-phenyl piperazine | C(C)N(C(C)N1C(CNCC1)C1=CC=CC=C1)CC | C16H27N3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylethylketone | CC(=O)CC | C4H8O
product | 4-Diethylaminoethyl-3-phenyl-1-(3,4-dibenzyloxy benzyl) piperazine hydrochloride | Cl.C(C)N(CC)CCN1C(CN(CC1)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C37H45N3O2.ClH/c1-3-38(4-2)22-24-40-25-23-39(28-35(40)34-18-12-7-13-19-34)27-33-20-21-36(41-29-31-14-8-5-9-15-31)37(26-33)42-30-32-16-10-6-11-17-32;/h5-21,26,35H,3-4,22-25,27-30H2,1-2H3;1H
